* Z:\mnt\design.r\spice\examples\1512.asc
V1 IN 0 5
C4 N006 0 .2µ
C2 BAT 0 100µ Rser=.1
C5 N001 N002 1µ
R3 N007 N006 100
R2 N005 0 6.19K
R1 BAT N005 18.7K
D1 N002 BAT MBRS130L
L2 N009 N002 33µ
L1 IN N001 33µ
XU1 N007 N005 N008 N004 IN 0 0 N001 LT1512
R6 BAT N003 1
R4 N009 0 .1
R5 N009 N008 24
C1 N008 0 .22µ
V2 N003 0 3
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
K1 L1 L2 1.
.tran 1m
.lib LT1512.sub
.backanno
.end
